US06777418B2
A solution of 0.147 g (0.498 mmol) of 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde, 0.302 g (0.498 mmol) of trans-1,2-bis(tri-n-butylstannyl)ethylene,and 0.012 g (0.00996 mmol) of tetrakis(triphenylphosphine)palladium(0) in 5 ml toluene was heated to reflux under an atmosphere of argon for 1 hour. This was cooled. 0.082 g (0.498 mmol) of 2-bromothiazole and 0.012 g (0.00996 mmol) of tetrakis(triphenylphosphine)palladium(0) were added. This was stirred at reflux for 2 hours and at room temperature for 16 hours. 20 ml of 5% aqueous potassium fluoride and 15 ml of ethyl acetate were added. The resulting mixture was stirred vigorously for 2 hours and was filtered through celite. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and was concentrated in vacuo. The product was purified by flash chromatography with elution with 15% ethyl acetate/hexane to afford 0.065 g (40%) of 5,5,8,8,-tetramethyl-3-((E)-2-thiazol-2-yl-vinyl)-5,6,7,8-tetrahydro-2-naphthaldehyde (M+H=326).

reactant | 3-bromo-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde | 0.498 mmol, 0.147 g | BrC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O | C15H19BrO
reactant | 2-bromothiazole | 0.498 mmol, 0.082 g | BrC=1SC=CN1 | C3H2BrNS
reactant | potassium fluoride | 20 ml | [F-].[K+]
reactant | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.00996 mmol, 0.012 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5,5,8,8,-tetramethyl-3-((E)-2-thiazol-2-yl-vinyl)-5,6,7,8-tetrahydro-2-naphthaldehyde | 0.065 g, 40% | CC1(C=2C=C(C(=CC2C(CC1)(C)C)C=O)\C=C\C=1SC=CN1)C | C20H23NOS
